US08754114B2
N-[1-(2-Fluorophenyl)ethyl]-3-[3-(3-{[(methylamino)carbonyl]amino}phenyl)imidazo[1,2-b]pyridazin-7-yl]benzamide
This compound was prepared by using procedure analogous to those described for the synthesis of Example 96, Step 4 starting from 3-[3-(3-{[(methylamino)carbonyl]amino}phenyl)imidazo[1,2-b]pyridazin-7-yl]benzoic acid and 1-(2-fluorophenyl)ethanamine. LCMS (M+H)+: m/z=509.2

reactant | 3-[3-(3-{[(methylamino)carbonyl]amino}phenyl)imidazo[1,2-b]pyridazin-7-yl]benzoic acid | CNC(=O)NC=1C=C(C=CC1)C1=CN=C2N1N=CC(=C2)C=2C=C(C(=O)O)C=CC2 | C21H17N5O3
reactant | 1-(2-fluorophenyl)ethanamine | FC1=C(C=CC=C1)C(C)N | C8H10FN
product | N-[1-(2-Fluorophenyl)ethyl]-3-[3-(3-{[(methylamino)carbonyl]amino}phenyl)imidazo[1,2-b]pyridazin-7-yl]benzamide | FC1=C(C=CC=C1)C(C)NC(C1=CC(=CC=C1)C1=CC=2N(N=C1)C(=CN2)C2=CC(=CC=C2)NC(=O)NC)=O | C29H25FN6O2
